US07476670B2
Stage 1: 2-chloro-6-[2,3-dihydro-6-(trifluoromethyl)-1H-indol-1-yl]-9H-purine
756 mg of 2,6-dichloropurine, 8 ml of butanol and 897 mg of 6-(trifluoromethyl)indoline are mixed and brought to a temperature of 90° C. for approximately 23 hours. The mixture is allowed to return to ambient temperature. Partial drying, washing with ethyl ether and drying under vacuum at 50° C. are carried out, and 1.256 g of expected product are obtained, in the form of beige crystals.

reactant | 2,6-dichloropurine | 756 mg | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | 6-(trifluoromethyl)indoline | 897 mg | FC(C1=CC=C2CCNC2=C1)(F)F | C9H8F3N
solvent | butanol | 8 ml | C(CCC)O | C4H10O
product | 2-chloro-6-[2,3-dihydro-6-(trifluoromethyl)-1H-indol-1-yl]-9H-purine | 1.256 g | ClC1=NC(=C2N=CNC2=N1)N1CCC2=CC=C(C=C12)C(F)(F)F | C14H9ClF3N5
